US09193723B2
4-{[(3-chloroimidazo[1,2-a]pyridin-6-yl)carbamoyl]amino}-N-(tetrahydro-2H-pyran-2-ylmethyl)benzamide
A solution of 4-(3-imidazo[1,2-a]pyridin-6-ylureido)-N-((tetrahydro-2H-pyran-2-yl)methyl)benzamide (0.016 g, 0.041 mmol) in chloroform (0.813 ml) was treated with N-chlorosuccinimide (5.70 mg, 0.043 mmol) and the reaction mixture was stirred at room temperature for 16 hours. The reaction mixture was concentrated under a stream of nitrogen and purified using normal phase chromatography to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.11 (s, 1H), 9.02 (s, 1H), 8.89-8.85 (m, 1H), 8.35 (t, J=5.8 Hz, 1H), 7.85-7.79 (m, 2H), 7.69-7.60 (m, 2H), 7.58-7.52 (m, 2H), 7.19 (dd, J=9.5, 2.0 Hz, 1H), 3.91-3.83 (m, 1H), 3.46-3.19 (m, 4H), 1.80-1.73 (m, 1H), 1.66-1.57 (m, 1H), 1.49-1.36 (m, 3H), 1.26-1.09 (m, 1H); MS (ESI(+)) m/e 428 (M+H)+.

reactant | 4-(3-imidazo[1,2-a]pyridin-6-ylureido)-N-((tetrahydro-2H-pyran-2-yl)methyl)benzamide | 0.041 mmol, 0.016 g | N=1C=CN2C1C=CC(=C2)NC(NC2=CC=C(C(=O)NCC1OCCCC1)C=C2)=O | C21H23N5O3
reactant | N-chlorosuccinimide | 0.043 mmol, 5.70 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 0.813 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-{[(3-chloroimidazo[1,2-a]pyridin-6-yl)carbamoyl]amino}-N-(tetrahydro-2H-pyran-2-ylmethyl)benzamide | ClC1=CN=C2N1C=C(C=C2)NC(=O)NC2=CC=C(C(=O)NCC1OCCCC1)C=C2 | C21H22ClN5O3
